US08080566B1
A 50-mL 3-necked round-bottomed flask was charged with N,N-dimethylformamide (400 mg, 5.42 mmol, 2.80 equiv, 99%). To this, POCl3 (700 mg, 4.56 mmol, 2.40 equiv, 99%) was added drop wise with stirring at 0° C. and allowed to stir at room temperature for 1 hour. To this mixture was added 9-benzyl-9H-carbazole (500 mg, 1.93 mmol, 1.00 equiv, 99%) in small portions at 45° C. over 5 minutes. Then, the temperature was raised to 95° C. in an oil bath and allowed to stir for 18 hours. The progress was monitored by TLC (EtOAc:PE=1:4). Upon completion, the reaction mixture was cooled down to room temperature and quenched with water (20 mL). The resulting mixture was allowed to stir for an additional 4 hours at room temperature. The solids were collected by filtration and dried to afford 9-benzyl-9H-carbazole-3-carbaldehyde as green solid (200 mg, 36.1%). LCMS: [M+H]+: 286

reactant | N,N-dimethylformamide | 5.42 mmol, 400 mg, 2.80 equiv | CN(C=O)C | C3H7NO
reactant | POCl3 | 4.56 mmol, 700 mg, 2.40 equiv | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 9-benzyl-9H-carbazole | 1.93 mmol, 500 mg, 1.00 equiv | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 9-benzyl-9H-carbazole-3-carbaldehyde | 200 mg, 36.1% | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C20H15NO
